US06340759B1
Synthesis of 1-(1-Ethylpiperazin-4-yl)-3-[4-(N-ethylcarbamyl)phenyl]isoquinoline
1-(1-Ethylpiperazin-4-yl)-3-(4-hydroxyphenyl)isoquinoline (333 mg) was dissolved in tetrahydrofuran (5 ml), ethyl isocyanate (800 ml) was added thereto, and then the mixture was stirred at room temperature for 3 hr. The reaction mixture was evaporated. The resulting residue was purified by silica gel column chromatography (methylene chloride/methanol system), and then recrystallized from ethyl acetate/hexane, to give the free compound of the title compound. The free compound was converted into a hydrochloride in a conventional manner, which was then recrystallized (from ethanol/isopropyl ether), to give the hydrochloride of the title compound as yellow crystals (313 mg, yield; 70%).

reactant | 1-(1-Ethylpiperazin-4-yl)-3-(4-hydroxyphenyl)isoquinoline | 333 mg | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)O | C21H23N3O
reactant | ethyl isocyanate | 800 ml | C(C)N=C=O | C3H5NO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-(1-Ethylpiperazin-4-yl)-3-[4-(N-ethylcarbamyl)phenyl]isoquinoline | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)C(NCC)=O | C24H28N4O
